US04049705
A mixture of 10 parts of 3-chloro-2-n-dodecyl-1,4-naphthoquinone. 5 parts of 50% aqueous sodium hydroxide and 320 parts of 95% aqueous ethanol were heated at reflux for 15 minutes. The color of the mixture turned from yellow to dark red. The mixture was cooled to 25° and acidified with 10% aqueous hydrochloric acid. The color of the mixture was golden yellow after acidification. The product was filtered off and washed twice with water (25 parts) and twice with cold methanol (25 parts) to yield 8 parts of 2-n-dodecyl-3-hydroxy-1,4-naphthoquinone, mp. 85° - 87° C.

reactant | 3-chloro-2-n-dodecyl-1,4-naphthoquinone | ClC1=C(C(C2=CC=CC=C2C1=O)=O)CCCCCCCCCCCC | C22H29ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-n-dodecyl-3-hydroxy-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C22H30O3
